US07816540B2
b) Cyclohexyl-[2-(2,6-dimethoxy-pyridin-3-yl)-5,6-difluoro-benzoimidazol-1-yl]-acetic acid
To a solution of N-benzyl-2-cyclohexyl-2-[2-(2,6-dimethoxy-pyridin-3-yl)-5,6-difluoro-benzoimidazol-1-yl]-acetamide (3.50 g, 6.72 mmol, 1.0 equiv) in a mixture of acetic acid (25 mL) and acetic acid anhydride (50 mL) was added at 0° C. in several small portions sodium nitrite (10.20 g, 147.91 mmol, 22.0 equiv) within 1 h. The reaction mixture was stirred overnight allowing to warm up to rt. The solution was concentrated by evaporation under reduced pressure, the pH adjusted to 9 by addition of a solution of 1 M NaHCO3 and the aqueous layer extracted with diethyl ether. The combined organic phases were dried over MgSO4 and concentrated by evaporation under reduced pressure. The crude material was taken up in a mixture of THF:water (3:1, 40 mL) and a pre-prepared solution of LiOH (1.61 g, 67.23 mmol, 10.0 equiv) in hydrogen peroxide (15.24 g, 13.73 mL, 134.46 mmol, 20.0 equiv; 30% solution in water) was added and stirred at rt for 30 min. The solution was concentrated by evaporation under reduced pressure, the pH adjusted to 4 by addition of 1 M HCl and the aqueous layer extracted with diethyl ether. The combined organic phases were dried over MgSO4 and concentrated by evaporation under reduced pressure. Purification by silica column chromatography using a MPLC system (CombiFlash Companion, Isco Inc.) eluting with a gradient of dichloromethane/methanol yielded 1.67 g (57%) of the title compound. MS (ES+): 432 (M+H).

reactant | N-benzyl-2-cyclohexyl-2-[2-(2,6-dimethoxy-pyridin-3-yl)-5,6-difluoro-benzoimidazol-1-yl]-acetamide | 6.72 mmol, 3.50 g, 1.0 equiv | C(C1=CC=CC=C1)NC(C(N1C(=NC2=C1C=C(C(=C2)F)F)C=2C(=NC(=CC2)OC)OC)C2CCCCC2)=O | C29H30F2N4O3
reactant | sodium nitrite | 147.91 mmol, 10.20 g, 22.0 equiv | N(=O)[O-].[Na+]
reactant | LiOH | 67.23 mmol, 1.61 g, 10.0 equiv | [Li+].[OH-]
reactant | hydrogen peroxide | 134.46 mmol, 13.73 mL, 15.24 g, 20.0 equiv | OO | H2O2
solvent | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid anhydride | 50 mL | C(C)(=O)OC(C)=O | C4H6O3
product | Cyclohexyl-[2-(2,6-dimethoxy-pyridin-3-yl)-5,6-difluoro-benzoimidazol-1-yl]-acetic acid | 1.67 g, 57% | C1(CCCCC1)C(C(=O)O)N1C(=NC2=C1C=C(C(=C2)F)F)C=2C(=NC(=CC2)OC)OC | C22H23F2N3O4
